US06794403B2
2-(4-Hydroxyphenyl)-1,3-benzoxazol-6-ol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,4-dimethoxyaniline, and 4-methoxybenzoyl chloride and was obtained as a white solid, m.p. greater than 300° C.; MS m/e 226 (M−H)+.

reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 2-(4-Hydroxyphenyl)-1,3-benzoxazol-6-ol | OC1=CC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)O | C13H9NO3
